US08937078B2
Step E: Preparation of 1-(6-benzoylamino-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
Aqueous 1M KOH (1.06 mL, 1.06 mmol) was added to 1-(6-benzoylamino-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.142 g, 0.343 mmol) in THF (1.0 mL). The reaction mixture was allowed to stir at room temperature for 18 h and was then concentrated. The residue was redissolved in water (5 mL) and brought to pH 1 with aqueous 1M HCl (3 mL). The resulting precipitate was collected by filtration to yield the titled compound (0.110 g, 82% yield). MS (ESI/Cl): mass calcd. for C19H13N5O4, 375.1; m/z found, 376.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 12.99 (s, 1H), 12.79 (s, 1H), 10.60 (s, 1H), 8.95 (s, 1H), 8.68 (s, 1H), 8.26 (s, 1H), 8.23 (dd, J=8.8, 2.4 Hz, 1H), 8.04-7.99 (m, 2H), 7.71 (d, J=7.8 Hz, 1H), 7.65-7.60 (m, 1H), 7.59-7.54 (m, 2H).

reactant | KOH | 1.06 mmol, 1M, 1.06 mL | [OH-].[K+]
reactant | 1-(6-benzoylamino-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.343 mmol, 0.142 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)NC(C1=CC=CC=C1)=O | C21H17N5O4
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 1-(6-benzoylamino-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 0.110 g, 82% yield | C(C1=CC=CC=C1)(=O)NC=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)O)=O | C19H13N5O4
